US07629358B2
Preparation 104: [4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-acetonitrile
A mixture of 1-(3-chloropropyl)pyrrolidine (J. Am. Chem. Soc., 77, 2270; 1955) (133 g, 0.9 mol), 4-hydroxybenzonitrile (100 g, 0.75 mol) and caesium carbonate (256 g, 0.78 mol) in acetonitrile (1 L) was stirred at 45° C. for 18 hours. The reaction mixture was then concentrated in vacuo and the residue was partitioned between ethyl acetate (800 mL) and water (800 mL). The aqueous layer was separated and extracted with ethyl acetate (800 mL) and the combined organic solution was washed with water (500 mL) and extracted with 2M hydrochloric acid (2×600 mL). The acidic solution was basified to pH8-9 with 40% potassium hydroxide solution and extracted with ethyl acetate (800 mL). The aqueous solution was then further basified to pH10-11 using 40% potassium hydroxide solution and extracted with ethyl acetate (800 mL). The combined organic solution was dried over sodium sulfate, filtered through a pad of silica and concentrated in vacuo to afford the title compound as a red oil in 79% yield, 150 g. 1H NMR (400 MHz, CDCl3) δ: 7.24 (2H, d), 6.85 (2H, d), 4.09-3.89 (2H, m), 3.75 (2H, s), 2.71-2.36 (6H, m), 2.14-1.93 (2H, m), 1.89-1.65 (4H, m) ppm; LRMS APCI m/z 245 [M+H]+

reactant | 1-(3-chloropropyl)pyrrolidine | 0.9 mol, 133 g | ClCCCN1CCCC1 | C7H14ClN
reactant | 4-hydroxybenzonitrile | 0.75 mol, 100 g | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | caesium carbonate | 0.78 mol, 256 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | acetonitrile | 1 L | C(C)#N | C2H3N
product | [4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-acetonitrile | 79% yield | N1(CCCC1)CCCOC1=CC=C(C=C1)CC#N | C15H20N2O
